US06855715B1
(R)-2-(4-Methoxybenzoylamino)-2-phenylethylamine
(R)-2-(4-methoxybenzoylamino)-2-phenylethyl azide (46.3 g) was combined with 10% palladium on carbon in THF (400 mL), methanol (100 mL) and was stirred under a hydrogen atmosphere. Analysis by TLC (70% methylene chloride, ethyl acetate) indicated absence of starting material after stirring overnight. The solution was filtered through diatomaceous earth, rinsed with THF, and evaporated. The resulting solid was recrystallized with ethyl acetate, and dried under vacuum at 60° C. for 1 h to afford 35.4 g (84%) of a white crystalline solid.

reactant | (R)-2-(4-methoxybenzoylamino)-2-phenylethyl azide | 46.3 g | COC1=CC=C(C(=O)N[C@@H](CN=[N+]=[N-])C2=CC=CC=C2)C=C1 | C16H16N4O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | (R)-2-(4-Methoxybenzoylamino)-2-phenylethylamine | 35.4 g, 84% | COC1=CC=C(C(=O)N[C@@H](CN)C2=CC=CC=C2)C=C1 | C16H18N2O2
